US06562811B1
To a cold (0° C.) suspension of LiAlH4 (380 mg, 9.9 mmol) in Et2O (40 mL) was added dropwise a solution of tert-butyl N-[3-(N-methoxy-N-methylcarbamoyl)cyclohexyl]-N-methylcarbamate (2.38 g, 7.92 mmol) in Et2O (40 mL) over 10 min. The reaction mixture was stirred at 0° C. for 0.5 hr, and quenched with 1N KHSO4 (100 mL). The organic phase was separated, dried over MgSO4 and evaporated to give tert-butyl 3-formylcyclohexyl(methyl)carbamate as a colorless oil, which was used for next step without purification (1.66 g, yield; 87%).

reactant | LiAlH4 | 9.9 mmol, 380 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | tert-butyl N-[3-(N-methoxy-N-methylcarbamoyl)cyclohexyl]-N-methylcarbamate | 7.92 mmol, 2.38 g | CON(C(=O)C1CC(CCC1)N(C(OC(C)(C)C)=O)C)C | C15H28N2O4
solvent | Et2O | 40 mL | CCOCC | C4H10O
solvent | Et2O | 40 mL | CCOCC | C4H10O
product | tert-butyl 3-formylcyclohexyl(methyl)carbamate | yield; 87% | C(=O)C1CC(CCC1)N(C(OC(C)(C)C)=O)C | C13H23NO3
